US09403798B2
N-[rac-(2S,4R)-2-(4-Fluorophenyl)tetrahydro-2H-pyran-4-yl]acetamide
To an acetonitrile solution (4.0 mL) of 4-fluorobenzaldehyde (421 μL, 4.00 mmol) and 3-buten-1-ol (679 μL, 8.00 mmol), sulfuric acid (427 μL) was added and the resultant mixture was stirred at room temperature for 2 hours. After completion of the reaction, ethyl acetate and 1 M sodium hydroxide aqueous solution were added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (382 mg, yield 40%).

reactant | 4-fluorobenzaldehyde | 4.00 mmol, 421 μL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3-buten-1-ol | 8.00 mmol, 679 μL | C(CC=C)O | C4H8O
reactant | sulfuric acid | 427 μL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | acetonitrile | 4.0 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[rac-(2S,4R)-2-(4-Fluorophenyl)tetrahydro-2H-pyran-4-yl]acetamide | 382 mg, yield 40% | FC1=CC=C(C=C1)C1OCCC(C1)NC(C)=O | C13H16FNO2
